US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-3-methyl-1-methylcarbamoyl-butyl)-amide
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g) and (2S)-2-amino-N,4-dimethyl-pentanamide monohydrochloride (CAN 99145-71-8) as starting materials, and isolated (67 mg, 87%) as off-white solid; LC-MS (UV peak area, ESI) 100%, 361.2232 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (2S)-2-amino-N,4-dimethyl-pentanamide monohydrochloride | Cl.N[C@H](C(=O)NC)CC(C)C
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-3-methyl-1-methylcarbamoyl-butyl)-amide | CC(C[C@@H](C(NC)=O)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1)C | C19H28N4O3
